US08222248B2
To a solution of 3,4-diamino-N-(3,4-dimethylphenyl)-benzamide (71 mg) and 2,3-dimethylbenzaldehyde (34 mg) in DMSO (1 mL) was added Yb(OTf)3 and the mixture was stirred at room temperature for 4 h. Additional Yb(OTf)3 was added and stirring was continued until starting material was consumed. Water was added and the mixture was extracted with EtOAc. The organic phase was washed with water and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using CH2Cl2/EtOAc (2:1) as eluent to furnish 2-(2,3-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide as a beige solid, MS (m/z) 370 (M−1).

reactant | 3,4-diamino-N-(3,4-dimethylphenyl)-benzamide | 71 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1N | C15H17N3O
reactant | 2,3-dimethylbenzaldehyde | 34 mg | CC1=C(C=O)C=CC=C1C | C9H10O
reactant | Yb(OTf)3 | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(2,3-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C(=CC=C2)C)C)C=C1 | C24H23N3O
